US05021435
Preparation of 3-ethoxycarbonylmethyl-5-methyl-2-(3-pyridyl)thiazolidin-4-one
5-Methyl-2-(3-pyridyl)thiazolidin-4-one (10 g, 51.5 mmol) (cis and trans mixture) and ethyl bromoacetate (6.85 ml, 61.8 mmol) were dissolved in dry dimethylformamide (50 ml), and 60% sodium hydride (2.16 g, 54.1 mmol) was added portionwise to the solution at 0° to 10° C. This reaction mixture was kept between those temperatures for 1 hour. The mixture, after addition of aqueous NaCl, was extracted with ethyl acetate. The extract was washed with aqueous NaCl, dried, and the solvent was removed in vacuo. The residue was chromatographed on silica gel, giving the cis-isomer (5.8 g) and the trans-isomer (2.1 g) of the title compound (55% yield).

reactant | 5-Methyl-2-(3-pyridyl)thiazolidin-4-one | 51.5 mmol, 10 g | CC1C(NC(S1)C=1C=NC=CC1)=O | C9H10N2OS
reactant | ethyl bromoacetate | 61.8 mmol, 6.85 ml | BrCC(=O)OCC | C4H7BrO2
reactant | sodium hydride | 54.1 mmol, 2.16 g | [H-].[Na+]
reactant | NaCl | [Na+].[Cl-]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-ethoxycarbonylmethyl-5-methyl-2-(3-pyridyl)thiazolidin-4-one | 2.1 g, 55% yield | C(C)OC(=O)CN1C(SC(C1=O)C)C=1C=NC=CC1 | C13H16N2O3S
